US04353827
4.0 g (10.38 mmol) of t-butyl (S)-11,12,13,13a-tetrahydro-8-methylthio-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate are dissolved in 25 ml of methylene chloride, treated portionwise at room temperature with 2.0 g (about 10.4 mmol) of about 90% percent m-chloroperbenzoic acid and left to stand at room temperature overnight. Then, the solution is poured into 2 N sodium hydroxide, the methylene chloride phase is separated, dried over magnesium sulphate and evaporated. After recrystallization from ethyl acetate/hexane, there is obtained t-butyl (S)-11,12,13,13a-tetrahydro-8-methylsulphinyl-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 224°-225° as a diastereoisomeric mixture.

reactant | t-butyl (S)-11,12,13,13a-tetrahydro-8-methylthio-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 10.38 mmol, 4.0 g | CSC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC(C)(C)C)CCC1)=O | C20H23N3O3S
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | t-butyl (S)-11,12,13,13a-tetrahydro-8-methylsulphinyl-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | CS(=O)C1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC(C)(C)C)CCC1)=O | C20H23N3O4S
